US08754079B2
XXXXXXIV.4 (1S,2S) 4-[2-(2-tert-Butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid
A mixture of 2.4 g (1S,2S) 4-[2-(2-tert-butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester and 20 ml 1M sodium hydroxide solution in 50 ml MeOH was stirred at rt overnight. To the reaction mixture was added 20 ml 1M hydrochloric acid until a pH range of 2-3 was reached. The mixture was diluted with water and filtrated. The solid was dried in vacuo at 50° C.

reactant | (1S,2S) 4-[2-(2-tert-butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 2.4 g | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2[C@H](CCC2)NC(=O)OC(C)(C)C)S1)C | C25H29FN4O5S
reactant | sodium hydroxide | 1M, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M, 20 ml | Cl | ClH
solvent | MeOH | 50 ml | CO | CH4O
solvent | water | O | H2O
product | (1S,2S) 4-[2-(2-tert-Butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C24H27FN4O5S
